US06774138B2
2-Bromo-1,3-thiazole (2.0 g, 12 mmol) and CuI (456 mg, 2.4 mmol) were combined in DME (30 mL) and argon gas was bubbled through the suspension for several minutes to deoxygenate the mixture. Triethylamine (8.6 mL, 60 mmol) and PdCl2(PPh3)2 (842 mg, 1.2 mmol) were added and methyl propargyl ether (1.00 g, 14.4 mmol) was added dropwise. The reaction was stirred at 55° C. under a condenser. After stirring at 55° C. for 16 h, GC/MS analysis indicated that the reaction was complete. The mixture was filtered through Celite™, and the filter pad was washed thoroughly with ethyl acetate. The combined filtrates were concentrated in vacuo and the residue was dissolved in ethyl acetate (300 mL), washed with water (300 mL), brine (300 mL), dried over Na2SO4 filtered, and concentrated in vacuo. The residue was purified by column chromatography eluting with hexane, 99:1, 97:3, then 96:4 hexane:ethyl acetate to afford methyl 3-(1,3-thiazol-2-yl)-2-propynyl ether (250 mg, 13% yield) as a yellow oil. 1H NMR (CDCl3, 300 MHz) δ 7.78 (d, J=3.0 Hz, 1H), 7.37 (d, J=3.0 Hz, 1H), 4.37 (s, 2H), 3.47 (s, 3H). MS (ESI) 154.1 (M++H).

reactant | 2-Bromo-1,3-thiazole | 12 mmol, 2.0 g | BrC=1SC=CN1 | C3H2BrNS
reactant | Triethylamine | 60 mmol, 8.6 mL | C(C)N(CC)CC | C6H15N
reactant | methyl propargyl ether | 14.4 mmol, 1.00 g | C(C#C)OC | C4H6O
reactant | hexane | CCCCCC | C6H14
solvent | DME | 30 mL | COCCOC | C4H10O2
catalyst | CuI | 2.4 mmol, 456 mg | [Cu]I
catalyst | PdCl2(PPh3)2 | 1.2 mmol, 842 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-(1,3-thiazol-2-yl)-2-propynyl ether | 250 mg, 13% yield | S1C(=NC=C1)C#CCOC | C7H7NOS
